US05716969
In a stream of argon, 2.9 g (7.5 mmol) of allyltriphenylphosphonium bromide was suspended in 10 ml of anhydrous tetrahydrofurane, and thereto 4.3 ml of butyllithium was added dropwise under cooling with ice. After stirring the mixture at room temperature for 30 minutes, thereto was added dropwise a solution of 1 g (5.3 mmol) of 1-benzyl-4-piperidone in anhydrous tetrahydrofurane under cooling with ice and the obtained mixture was stirred at room temperature for 15 hours. The reaction solution was filtrated, and ethyl acetate and water were added to the filtrate, and the organic phase was taken out. The organic phase was washed with water and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the resulting oily matter was subjected to a column chromatography using 40 g of silica gel and eluted with ethyl acetate-hexane (1:1 to 1:3) to obtain 200 mg of 1-benzyl-4-propylidenepiperidine.

reactant | allyltriphenylphosphonium bromide | 7.5 mmol, 2.9 g | [Br-].C(C=C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | 4.3 ml | C(CCC)[Li]
reactant | 1-benzyl-4-piperidone | 5.3 mmol, 1 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
product | 1-benzyl-4-propylidenepiperidine | 200 mg | C(C1=CC=CC=C1)N1CCC(CC1)=CCC | C15H21N
